US09388185B2
Step 2. 2-[2-(3,5-dimethoxyphenyl)ethyl]-N-methyl-5H-pyrrolo[2,3-b]pyrazine-6-carboxamide
To a stirred solution of 2-(3,5-dimethoxyphenethyl)-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine-6-carboxylic acid (27 mg, 57.8 μmol) in N,N-dimethylformamide (2 mL), methylamine (2.0 M in THF, 57.8 μL, 0.116 mmol), HATU (43.9 mg, 0.116 mmol) and N,N-diisopropylethylamine (40.2 μL, 0.231 mmol) were added sequentially at ambient temperature. After 1 hour, the reaction was quenched with saturated aq. NH4Cl, then extracted with methylene chloride. The combined organic layers were dried over MgSO4, and then concentrated. The residue was dissolved in methanol (2.0 mL), and potassium carbonate (16.0 mg, 0.116 mmol) was added. The reaction mixture was then warmed up to 60° C. After 1 hour, the crude mixture was allowed to warm to room temperature and was then purified on RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.05% TFA, at a flow rate of 30 mL/min) to give the desired product (6.0 mg, 30%) as its TFA salt. LCMS calculated for C18H21N4O3 (M+H)+: m/z=341.2. Found: 341.1.

reactant | 2-(3,5-dimethoxyphenethyl)-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine-6-carboxylic acid | 57.8 μmol, 27 mg | COC=1C=C(CCC=2N=C3C(=NC2)N(C(=C3)C(=O)O)S(=O)(=O)C3=CC=CC=C3)C=C(C1)OC | C23H21N3O6S
reactant | methylamine | 0.116 mmol, 2.0 M, 57.8 μL | CN | CH5N
reactant | HATU | 0.116 mmol, 43.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.231 mmol, 40.2 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium carbonate | 0.116 mmol, 16.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-[2-(3,5-dimethoxyphenyl)ethyl]-N-methyl-5H-pyrrolo[2,3-b]pyrazine-6-carboxamide | 6.0 mg, 30% | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)NC(=C2)C(=O)NC | C18H20N4O3
